US07910588B2
Dissolve dimethylsulfoxide (0.324 mL, 4.56 mmol) in DCM (10 mL) and cool the solution to −78° C. Add oxalyl chloride (0.239 mL, 2.74 mmol) to the mixture dropwise and stir at −78° C. for 20 min. Add (3,5-dimethyl-1-pyridin-2-yl-1H-pyrazol-4-yl)-methanol (0.369 g, 1.82 mmol) in DCM (10 mL) and stir the mixture at −78° C. for 1 hr. Add triethylamine (1.27 mL, 9.12 mmol) to the mixture and warm to room temperature then stir for 18 hr. Add saturated aqueous sodium bicarbonate and extract the aqueous 3 times with DCM, dry organic solution then filter and concentrate. Purify using silica gel chromatography, eluting with 20:80 hexanes:ethyl acetate to give 3,5-dimethyl-1-pyridin-2-yl-1H-pyrazole-4-carbaldehyde as a yellow solid (0.358 g, 97%). MS (m/z): 202 (M+1).

reactant | dimethylsulfoxide | 4.56 mmol, 0.324 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 2.74 mmol, 0.239 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (3,5-dimethyl-1-pyridin-2-yl-1H-pyrazol-4-yl)-methanol | 1.82 mmol, 0.369 g | CC1=NN(C(=C1CO)C)C1=NC=CC=C1 | C11H13N3O
reactant | triethylamine | 9.12 mmol, 1.27 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3,5-dimethyl-1-pyridin-2-yl-1H-pyrazole-4-carbaldehyde | 0.358 g, 97% | CC1=NN(C(=C1C=O)C)C1=NC=CC=C1 | C11H11N3O
